US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-(imidazo[1,2-a]-pyridin-2-yl)benzamide (Compound No. 75)
A mixture of 2-benzyloxy-5-(2-bromoacetyl)-N-[3,5-bis(trifluoromethyl)-phenyl]benzamide (280 mg, 0.5 mmol), 2-aminopyridine (51.8 mg, 0.55 mmol), sodium hydrogen carbonate (50 mg, 0.6 mmol) and ethanol (10 mL) was refluxed for 2 hours. After cooling, the reaction mixture was poured into aqueous sodium hydrogen carbonate and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=1:2) to give the title compound (130.3 mg, 45.9%) as a white solid. Then, a mixture of this solid (108 mg, 0.19 mmol), 10% Pd—C (11 mg), ethanol (8 mL) and ethyl acetate (8 mL) was stirred for 7 hours under hydrogen atmosphere. The reaction mixture was filtered and the residue obtained by evaporation of the filtrate under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=1:3) to give the title compound (18.3 mg, 20.2%) as a white solid.

reactant | 2-benzyloxy-5-(2-bromoacetyl)-N-[3,5-bis(trifluoromethyl)-phenyl]benzamide | 0.5 mmol, 280 mg | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(CBr)=O | C24H16BrF6NO3
reactant | 2-aminopyridine | 0.55 mmol, 51.8 mg | NC1=NC=CC=C1 | C5H6N2
reactant | sodium hydrogen carbonate | 0.6 mmol, 50 mg | C(O)([O-])=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-(imidazo[1,2-a]-pyridin-2-yl)benzamide | 130.3 mg, 45.9% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C=1N=C2N(C=CC=C2)C1)O)=O)(F)F | C22H13F6N3O2
